* C:\Users\gabri\Documents\LTspice\Lab04\Lab4.asc
XU1 Va N002 N001 -9 0 +9 ADG1201
XU2 Ve N001 +9 -9 N001 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
V1 Ve 0 SINE(2.5 2.5 1k)
V2 Va 0 PULSE(0 9 0 10n 10n 5u 50u)
C1 N002 0 1n
V3 +9 0 V
V4 0 -9 V
XU3 N002 Vs +9 -9 Vs level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
.tran 300u
.lib ADG1201.sub
.lib UniversalOpAmp1.lib
.backanno
.end
